US08802704B2
Step 2: 2-((2,6-difluoro-4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)(methyl)amino)acetic acid, hydrochloride salt
To tert-butyl 2-((2,6-difluoro-4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)(methyl)amino)acetate (0.101 g, 0.18 mmol) was added a 4N solution of HCl in dioxane (4.5 mL) and the reaction mixture stirred at 70° C. for 1 hour. The reaction mixture was allowed to cool and the solvent evaporated in vacuo. The residue was triturated with ACN to afford the title compound (0.087 g, 87%). 1H NMR (DMSO-d6, 400 MHz) δ 8.60 (1H, d, J=1.7 Hz), 8.55 (1H, dd, J=8.0, 1.7 Hz), 7.98 (2H, d, J=7.7 Hz), 7.72 (1H, d, J=8.0 Hz), 7.45-7.38 (2H, m), 7.33 (1H, ddd, J=7.6, 6.5, 2.3 Hz), 7.20 (1H, d, J=7.6 Hz), 4.51 (2H, br s), 4.15 (2H, br s), 2.81 (3H, br s), 2.06 (3H, br s). LC/MS (Method A): 518 (M+H)+. HPLC (Method F) Rt 3.38 min (Purity: 99.5%).

reactant | tert-butyl 2-((2,6-difluoro-4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)(methyl)amino)acetate | 0.18 mmol, 0.101 g | FC1=C(CN(CC(=O)OC(C)(C)C)C)C(=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)F | C30H28F5N3O3
reactant | HCl | Cl | ClH
solvent | dioxane | 4.5 mL | O1CCOCC1 | C4H8O2
product | 2-((2,6-difluoro-4-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)benzyl)(methyl)amino)acetic acid, hydrochloride salt | 0.087 g, 87% | Cl.FC1=C(CN(CC(=O)O)C)C(=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)C(F)(F)F)F | InChI=1S/C26H20F5N3O3.ClH/c1-14-5-3-4-6-17(14)18-8-7-15(9-20(18)26(29,30)31)25-32-24(33-37-25)16-10-21(27)19(22(28)11-16)12-34(2)13-23(35)36;/h3-11H,12-13H2,1-2H3,(H,35,36);1H
